US07601714B2
N4-{[trans-4-(1H-imidazol-1-yl)cyclohexyl]methyl}-5-nitro-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine
To a solution of (4-imidazol-1-yl-cyclohexyl)-methylamine (32 mg, 0.18 mmol) and Et3N (76 μL, 0.54 mmol) in EtOH (1 mL) was added (5-Nitro-4-thiocyanato-pyrimidin-2-yl)-(2-trifluoromethoxy-benzyl)-amine (71 mg, 0.19 mmol). The mixture was stirred at room temperature for 14 h before concentrating in vacuo. The residue was partially purified by column chromatography using a 12 g ISCO combi-flash cartridge (silica gel, 95:4.75:0.25 DCM/MeOH/NH4OH) then re-purified by semi-preparative HPLC. The isolated TFA salt was converted to the free base by partitioning between sat. NaHCO3 and EtOAc. Concentration of the organic layer in vacuo afforded 29 mg of the title compound as an off-white solid, m/z 492 [M+1]+

reactant | (4-imidazol-1-yl-cyclohexyl)-methylamine | 0.18 mmol, 32 mg | N1(C=NC=C1)C1CCC(CC1)NC | C10H17N3
reactant | Et3N | 0.54 mmol, 76 μL | CCN(CC)CC | C6H15N
reactant | (5-Nitro-4-thiocyanato-pyrimidin-2-yl)-(2-trifluoromethoxy-benzyl)-amine | 0.19 mmol, 71 mg | [N+](=O)([O-])C=1C(=NC(=NC1)NCC1=C(C=CC=C1)OC(F)(F)F)SC#N | C13H8F3N5O3S
solvent | EtOH | 1 mL | CCO | C2H6O
product | N4-{[trans-4-(1H-imidazol-1-yl)cyclohexyl]methyl}-5-nitro-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine | 29 mg | N1(C=NC=C1)[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC1=C(C=CC=C1)OC(F)(F)F | C22H24F3N7O3
